US03954834
Preparation of methyl 2-n-hexyl-3-oxo-cyclopentanecarboxylate
In a 100 ml round bottomed flask fitted with a mechanical stirrer and a reflux condenser, are placed 19.3 g 2-n-hexyl-3-cyanocyclopentanone, 3.2 g of methanol and 19 g of 2-n-hexyl-3-cyanocyclopentanone, 3.2 g of methanol and 19 g of p-toluene-sulfonic acid monohydrate. The reaction mixture is stirred at reflux temperature for 6 hours. The reaction mixture is then cooled to room temperature and poured into 200 ml of ice cold water. The organic layer is separated and the water phase is extracted with pentane. The combined organic layer and pentane extract are washed with sodium carbonate solution and water and dried over anhydrous sodium sulphate. The solvent is distilled off at atmospheric pressure and the residue is distilled through a short Vigreux column.

reactant | 2-n-hexyl-3-cyanocyclopentanone | 19.3 g | C(CCCCC)C1C(CCC1C#N)=O | C12H19NO
reactant | 2-n-hexyl-3-cyanocyclopentanone | 19 g | C(CCCCC)C1C(CCC1C#N)=O | C12H19NO
reactant | p-toluene-sulfonic acid monohydrate | 19 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methanol | 3.2 g | CO | CH4O
reactant | methanol | 3.2 g | CO | CH4O
product | methyl 2-n-hexyl-3-oxo-cyclopentanecarboxylate | C(CCCCC)C1C(CCC1=O)C(=O)OC | C13H22O3
